US05596020
To a mixture of concentrated sulfuric acid (300 ml) and concentrated nitric acid (30 ml) cooled in an ice bath to 10° C. is added tricyclo[3.3.1.13,7 ]decan-2-amine hydrochloride (20 g; 0.107 mole) in 5 g portions over 10 minutes. This mixture is then stirred for 2 hours with cooling. The reaction mixture is poured over ice and the pH raised to pH 10-11 using 40% NaOH. This mixture is extracted with chloroform, dried over MgSO4 and evaporated to dryness to give 5-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine as a solid residue (m.p. 267°-270° C.) which is used directly in step B.

reactant | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
reactant | tricyclo[3.3.1.13,7 ]decan-2-amine hydrochloride | 0.107 mole, 20 g | Cl.C12C(C3CC(CC(C1)C3)C2)N
reactant | NaOH | [OH-].[Na+]
solvent | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | 5-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine | OC12CC3C(C(CC(C1)C3)C2)N | C10H17NO
